US03957805
Preparation of 3-(5-Cyclopropyl-3-isoxazolyl)pyridine
A solution containing 1.43 g. of perchloric acid (70%) in 5 ml. of absolute ethanol is added dropwise with stirring to a solution of 2.57 g. of 3-[5-cyclopropyl-5-(1-pyrrolidinyl)-2-isoxazolin-3-yl]-pyridine in 25 ml. of absolute ethanol. The resulting solution is diluted with 25 ml. of water and then heated vigorously on a steam bath for 0.5 hours. The hot solution is poured directly onto 200 g. of ice. The precipitate is collected by filtration, washed well with water and air dried. This gives a white solid, melting point 72°-75°C. and the nmr spectrum δ6.82 (DMSO-d6, s, 4-isoxazolyl H).

reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | ethanol | C(C)O | C2H6O
reactant | 3-[5-cyclopropyl-5-(1-pyrrolidinyl)-2-isoxazolin-3-yl]-pyridine | C1(CC1)C1(CC(=NO1)C=1C=NC=CC1)N1CCCC1 | C15H19N3O
solvent | water | O | H2O
product | 3-(5-Cyclopropyl-3-isoxazolyl)pyridine | C1(CC1)C1=CC(=NO1)C=1C=NC=CC1 | C11H10N2O
